US08071593B2
Preparation of 5,6-difluoro-3-[1-(3-nitrophenyl)ethyl]-3H-benzoxazol-2-one
500 mg (2.9 mmol) of 5,6-difluoro-3H-benzoxazol-2-one, 672 mg (2.9 mmol) of (1-bromoethyl)-3-nitrobenzene and 1.58 g (11.4 mmol) of potassium carbonate are suspended in 6 ml of acetonitrile, and the mixture is stirred at 60° C. for 6 h. The mixture is subsequently diluted with 30 ml of MTBE, washed with 3×20 ml of H2O, dried over sodium sulfate and evaporated to dryness. The crude product is purified by column chromatography on silica gel.

reactant | 5,6-difluoro-3H-benzoxazol-2-one | 2.9 mmol, 500 mg | FC=1C(=CC2=C(NC(O2)=O)C1)F | C7H3F2NO2
reactant | (1-bromoethyl)-3-nitrobenzene | 2.9 mmol, 672 mg | BrC(C)C1=CC(=CC=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | potassium carbonate | 11.4 mmol, 1.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | MTBE | 30 ml | CC(C)(C)OC | C5H12O
product | 5,6-difluoro-3-[1-(3-nitrophenyl)ethyl]-3H-benzoxazol-2-one | FC=1C(=CC2=C(N(C(O2)=O)C(C)C2=CC(=CC=C2)[N+](=O)[O-])C1)F | C15H10F2N2O4
